US05652235
N-[1(R)-[(3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,4'-piperidin]1'-yl)carbonyl]-2-(indol-3-yl)ethyl]-2-[[(1,1-dimethylethyloxy)carbonyl]amino]-2-methylpropanamide
This intermediate was prepared from α(R)-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-2,2-dimethyl-1-oxoethyl]amino]-1H-indole-3-propanoic acid (903 mg, 2.3 mmol) and spiro[2H-1-benzopyran-2,4'-piperidin]-4(3H)-one, hydrochloride (535 mg, 2.11 mmol) (Elliott, J., et al, J. Med. Chem. 1992, 35, 3973-3976) by the procedure described in Example 25, Step A (1.25 g, 100%).

reactant | α(R)-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-2,2-dimethyl-1-oxoethyl]amino]-1H-indole-3-propanoic acid | 2.3 mmol, 903 mg | CC(C)(OC(=O)NC(C(=O)N[C@@H](C(=O)O)CC1=CNC2=CC=CC=C12)(C)C)C | C20H27N3O5
reactant | spiro[2H-1-benzopyran-2,4'-piperidin]-4(3H)-one, hydrochloride | 2.11 mmol, 535 mg | Cl.N1CCC2(CC1)OC1=C(C(C2)=O)C=CC=C1
product | N-[1(R)-[(3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,4'-piperidin]1'-yl)carbonyl]-2-(indol-3-yl)ethyl]-2-[[(1,1-dimethylethyloxy)carbonyl]amino]-2-methylpropanamide | O=C1CC2(CCN(CC2)C(=O)[C@@H](CC2=CNC3=CC=CC=C23)NC(C(C)(C)NC(=O)OC(C)(C)C)=O)OC2=C1C=CC=C2 | C33H40N4O6
